US07321012B2
Preparation of (2,2′-bithiophene)-3-acetic acid
In a 500 ml flask, 5.5 g (22 mmol) of ethyl (2,2′-bithiophene)-3-acetate dissolved in 50 ml of methanol was added, followed by 200 ml of 15% aqueous sodium hydroxide solution. The solution was refluxed for 3 hours. After cooling down the mixture to room temperature, the solution was concentrated via methanol removal using rotary evaporation. The aqueous solution was washed with diethyl ether, and then acidified with HCl to pH 1 upon which precipitation occurs. The white precipitate was dissolved in CH2Cl2 (150 ml×3) and the organic portion was collected. Chloroform was removed using a rotary evaporator after drying over magnesium sulfate to yield 4.7 g of white solid 96% yield. 1H-NMR (CDCl3): 7.34 (dd, 1H), 7.25 (d, 1H), 7.18 (dd, 1H), 7.08 (dd, 1H), 7.06 (d, 1H), 3.80 (s, 2H).

reactant | ethyl (2,2′-bithiophene)-3-acetate | 22 mmol, 5.5 g | S1C(=C(C=C1)CC(=O)OCC)C=1SC=CC1 | C12H12O2S2
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | (2,2′-bithiophene)-3-acetic acid | 4.7 g, 96% yield | S1C(=C(C=C1)CC(=O)O)C=1SC=CC1 | C10H8O2S2
